US08227625B2
A solution of a mixture E/Z of 2-(6,7-dihydrobenzo[b]thiophen-4(5H)-ylidene)acetic acid (0.38 g, 1.96 mmol) in thionyl chloride (3 mL) and a catalytic amount of DMF is refluxed for 5 min. The solvent is evaporated at reduced pressure and the residue is slowly added to a solution of N-methyl-N-benzylamine (0.24 g, 1.96 mmol) and triethylamine (0.5 mL) in dry CH2Cl2 (15 mL) cooled in an ice bath and stirred at room temperature monitoring the reaction by TLC. The solution is washed with water and the organic phase is dried and evaporated under reduced pressure, and the resulting crude is purified by column chromatography, giving (E)-N-benzyl-2-(6,7-dihydrobenzo[b]thien-4(5H)-ylidene)-N-methylacetamide (0.35 g, 1.17 mmol, 60%, viscous oil). 1H NMR (300 MHz, CDCl3): δ 1.95 (m, 2H), 2.87 (m, 4H), 3.00 (s, 3H), 4.65 (s, 2H), 6.34 (s, 1H), 7.04 (d, J=5.3 Hz, 1H), 7.09 (d, J=5.3 Hz, 1H), 7.23-7.38 (m, 5H).

reactant | 2-(6,7-dihydrobenzo[b]thiophen-4(5H)-ylidene)acetic acid | 1.96 mmol, 0.38 g | S1C2=C(C=C1)C(CCC2)=CC(=O)O | C10H10O2S
reactant | DMF | CN(C)C=O | C3H7NO
reactant | N-methyl-N-benzylamine | 1.96 mmol, 0.24 g | CNCC1=CC=CC=C1 | C8H11N
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (E)-N-benzyl-2-(6,7-dihydrobenzo[b]thien-4(5H)-ylidene)-N-methylacetamide | 1.17 mmol, 0.35 g, 60% | C(C1=CC=CC=C1)N(C(/C=C/1\CCCC=2SC=CC21)=O)C | C18H19NOS
